US07960552B2
A solution of 90 mg (0.32 mmol) of methyl 7-(4-hydroxyphenyl)-4-quinolinecarboxylate, 196 mg (0.64 mmol) of 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole and 178 mg (1.29 mmol) of K2CO3 in 2.5 mL DMF was stirred at ambient temperature for 60 hr. EtOAc was added and the mixture washed with three portions of H2O then brine. The solution was concentrated and the residue purified by silica gel chromatography (12 g of silica gel eluting with 0-50% EtOAc in hexanes over 45 minutes) to give 98 mg (56%) of methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-4-quinolinecarboxylate as a clear glass. 1H NMR (400 MHz, CDCl3): δ 9.02 (d, J=4 Hz, 1H), 8.81 (d, J=9 Hz, 1H), 8.29 (s, 1H), 7.88-7.85 (m, 2H), 7.64 (d, J=8 Hz, 2H), 7.41 (d, J=8 Hz, 2H), 7.35-7.32 (m, 1H), 6.91 (d, J=8 Hz, 2H), 4.79 (s, 2H), 4.05 (s, 3H), 3.34 (septet, J=7 Hz, 1H), 1.43 (d, J=7 Hz, 6H). ESI-LCMS m/z 548 (M+H)+.

reactant | methyl 7-(4-hydroxyphenyl)-4-quinolinecarboxylate | 0.32 mmol, 90 mg | OC1=CC=C(C=C1)C1=CC=C2C(=CC=NC2=C1)C(=O)OC | C17H13NO3
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 0.64 mmol, 196 mg | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | K2CO3 | 1.29 mmol, 178 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-4-quinolinecarboxylate | 98 mg, 56% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C(=CC=NC2=C1)C(=O)OC)C(C)C | C30H24Cl2N2O4
